US05395934
4,5 -Dichloro-2-{4-[(methylsulfonyl)-amino]-benzyl}-3(2H)-pyridazinone
4.5 g (15 mmoles) of 4,5-dichloro-2-(4-nitrobenzyl)-3(2H)-pyridazinone (prepared according to method III but using 4-nitrobenzyl chloride instead of 3-phenyl-2-propenyl chloride (M.P. 128-130 celsius)) are dissolved in 150 ml of 99.5% acetic acid solution. Then 7.5 g of iron dust are added to the solution at such a rate that the temperature should not exceed 20° C., and the suspension is stirred at room temperature for 8 hours. By working up the reaction mixture in the usual manner 3.15 g (77%) of 2-(4-aminobenzyl)-4,5-dichloro-3(2H)-pyridazinone melting at 187°-189° C. are obtained, which is dissolved in 34 ml of anhydrous pyridine. To the solution 1.24 ml (16 moles) of methanesulfonyl chloride are dropped under stirring and cooling at such a rate that the inner temperature should remain between 0° C. and 5° C. The mixture is then stirred at room temperature for 4 hours and poured onto water. The separated crystals are filtered and washed with water. Thus 2.34 g (57%) of the desired compound are obtained. M.p.: 152°-154° C.

reactant | 4,5-dichloro-2-(4-nitrobenzyl)-3(2H)-pyridazinone | 15 mmoles, 4.5 g | ClC=1C(N(N=CC1Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H7Cl2N3O3
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | 2-(4-aminobenzyl)-4,5-dichloro-3(2H)-pyridazinone | 3.15 g | NC1=CC=C(CN2N=CC(=C(C2=O)Cl)Cl)C=C1 | C11H9Cl2N3O
reactant | methanesulfonyl chloride | 16 moles, 1.24 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 34 ml | N1=CC=CC=C1 | C5H5N
catalyst | iron | 7.5 g | [Fe] | Fe
product | 4,5 -Dichloro-2-{4-[(methylsulfonyl)-amino]-benzyl}-3(2H)-pyridazinone | 2.34 g, 57% | ClC=1C(N(N=CC1Cl)CC1=CC=C(C=C1)NS(=O)(=O)C)=O | C12H11Cl2N3O3S
